Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I made a mistake"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of prior 
depressive episode who was brought in by EMS following an 
intentional ingestion of Vicodin and alcohol. On initial and 
subsequent interviews, ___ reported that she has been 
increasingly depressed in the past few months due to 1) 
increased strain from a long distance relationship 2) 
difficulties in her PhD program and 3) discontinuing sertraline 
in ___. She reported that sertraline had improved her mood 
following initial trial in ___. Regarding 
discontinuation, she stated that she forgot to refill several 
prescriptions and just let it lapse. She expressed interest in 
restarting. 
.
Regarding depressive symptoms, endorsed feeling more tearful and 
sensitive in the recent months with impaired concentration. She 
denied changes in appetite, energy, sleep, or hedonic tone. She 
adamantly denied suicidal thoughts, plans or urges prior to the 
incident above. Denied engaging self-injurious behavior
.
Regarding events on the day of her overdose, ___ recalled 
that she and her boyfriend had an argument about their 
relationship, which resulted in their breaking up. She recalled 
impulsively drinking alcohol and remembering that her former 
roommate had left a bottle of vicodin in their medicine cabinet. 
___ denied explicitly that she kept this bottle with intent 
to overdose. She denied having any plans prior to the current 
ingestion to attempt suicide. She stated that she took the 
vicodin + alcohol in order to "calm down," but as she became 
more intoxicated, she noticed the onset of suicidal thoughts, 
which prompted her to ingest more vicodin/alcohol. She said that 
after she had consumed approximately 12 pills of Vicodin and a 
full bottle of wine, she became scared and ___ a friend.  She 
___ her boyfriend who then contacted a friend who lives 
across the hall from ___. When he was unable to get in 
contact with her, the friend contacted ___. As per previous 
evaluations, ___ expressed regret for the incident. 
.
___ provided verbal permission to speak with her boyfriend, 
___ (___). Confirmed the above narrative provided by 
___. However, stated that he was completely surprised about 
___ suicide attempt. Denied that ___ had voiced any 
suicidal ideation or thoughts/urges to engage in self-harm prior 
to current incident. When asked explicitly about there being a 
similar episode a couple of weeks prior (e.g. "friend states ___ 
weeks ago there was a similar incident when boyfriend called 
___ and told him that ___ might have taken pills"), 
boyfriend denied. Said that this collateral may have been 
misinterpreted. Boyfriend affirmed that he does not have ongoing 
safety concerns about ___ advocated for her to be 
discharged in order to attend family gathering in ___ this 
weekend. Confirmed that ___ is close with her family and 
that family is aware of her depressive symptoms and previous 
medication trial. Confident that ___ plans to inform her 
family about current admission. Boyfriend in agreement with 
recommendation for ___ to follow up with outpatient provider 
at ___ and then be referred to provider for ___ care.
.
Also spoke with ___ cousin, ___  ___ resident 
at ___ per ___ request. Cousin confirmed above 
narrative and did not voice ongoing safety concerns regarding 
proposed discharge tomorrow in order for ___ to attend 
family gathering in ___. 
 
Past Medical History:
Past psychiatric history absent for any prior hospitalizations 
or
suicide attempts. No history of self-injurious behavior. Sought
treatment for first episode of depressive symptoms in ___ of 
___ at ___; started on sertraline 50mg by Dr. ___. Tolerated 
and symptoms improved. Stopped taking in the ___ of ___ (no 
particular reason other than prescription ran out). No other 
medication trials. 
.
Past medical history:
-Diagnoses: Migraines
-PCP: none
-___ history of head trauma, seizure.
.
Allergies: NKDA
 
Social History:
___
Family History:
Family psychiatric history absent for any known psychiatric 
hospitalizations or completed suicides.

 
Physical Exam:
VITAL SIGNS:
T 98.1, HR 93, BP 143/91, RR16 , SpO2 92% on RA

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___ 
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3 
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the 
other side" as "you always think people have better things than 
you"
-Visuospatial: Not assessed
-Language: Accented, fluent ___ speaker, no paraphasic 
errors, appropriate to conversation

Mental Status:
-Appearance: age appearing female, minimally unkempt, wearing 
hospital gown, in no apparent distress
-Behavior: sitting in chair, appropriate eye contact, tapping 
leg throughout interview
-Attitude: Cooperative, engaged, friendly
-Mood: "ok"
-Affect: Mood-congruent, restricted range, at times appears on 
the verge of tears when discussing events leading up to 
hospitalization, appropriate to situation; 
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI, intent, or plan
---Delusions: No evidence of paranoid delusions, grandiose 
delusions, persecutory delusions, delusions of reference, or 
delusions of thought insertion, withdrawal, or broadcasting
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to 
internal stimuli
-Insight: Limited
-Judgment: Poor
 
Pertinent Results:
 OTHER ENZYMES & BILIRUBINSLipase
___ 19:50  56
___ 01:19  485*
___ 18:05  943*

___ 06:36  
CalciumPhosMg
___
  
DIABETES MONITORING%HbA1c4.41

LIPID/CHOLESTEROLCholestHDL
___ 06:36  204*68

___ 06:36  TSH2.4

ENZYMES & BILIRUBINALTASTAlkPhosTotBili
___ 06:36  ___ 0.7

___ 06:36 RENAL & GLUCOSE
GlucoseUreaNCreatNaKClHCO3AnGap
___

 COMPLETE BLOOD COUNTWBCHgbHctPlt Ct
___ 06:36  ___. LEGAL & SAFETY:
On admission, the ___ signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She was also placed on 15min minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#) Major Depressive Disorder, Recurrent, Severe: On initial and 
subsequent interviews, ___ reported recent worsening of 
depressive symptoms, including tearfulness, poor concentration, 
and ruminative thinking, in the context of situational stressors 
(e.g. strain of long distance relationship and difficult 
doctoral program), in addition to discontinuation of sertraline 
over the summer. Although ___ was equivocal as to whether or 
not this ingestion was a suicide attempt, she denies adamantly 
current suicidal ideation. Collateral from her boyfriend absent 
for previous concern for suicidal ideation or knowledge that 
___
possessed thoughts to harm herself. Cousin and boyfriend 
appraise this situation as very out of character for ___ and 
significantly impacted by the presence of alcohol. Presentation 
most consistent with major depressive disorder, recurrent, 
severe. Given that ___ benefitted from sertraline in the 
past, this medication was restarted with no side effects 
reported. Discussed that dose could be increased in the future 
for additional benefit. On day of discharge, ___ exhibited 
mood congruent euthymic affect, linear thought process, and 
thought content devoid of suicidal ideation or thoughts/urges to 
engage in self-harm. She stated that she was looking forward to 
seeing her family in ___ for a holiday gathering. She also 
indicated that her mother would likely be staying with her in 
___ for a short period of time when she returns to school for 
additional support. 
.
3. SUBSTANCE USE DISORDERS:
#) ___ was provided with counseling regarding the negative 
effects of alcohol use on mental health; specifically that 
alcohol has a disinhibitive effect that increases her risk of 
impulsive behavior.
.
4. MEDICAL
#) No acute or chronic issues; ___ lipase was elevated on 
admission ___ alcohol/Vicodin ingestion. Value decreased 
appropriately within normal limits prior to discharge. ___ 
remained asymptomatic throughout.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. ___ 
was observed to interact appropriately with other patients on 
the unit with no behavioral problems.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
As per HPI, ___ boyfriend and cousin were available for 
contact (see above)
.
#) INTERVENTIONS
- Medications: Restarted sertraline 50mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Arranged for post-discharge 
re-entry appointment with ___ health services, arranged for 
follow-up appointment with ___ psychiatrist, Dr. ___ 
referred to outpatient therapist
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the ___ was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
worsening symptoms of depression and s/p suicide attempt. Her 
static factors noted at that time include history of suicide 
attempt and marital status (single). The modifiable risk factors 
were also addressed at that time which included discontinuation 
of antidepressant medication (restarted this medication) and 
lack of outpatient providers (re-referred ___ to ___ 
psychiatrist and referred to outpatient therapist).  Finally, 
the ___ is being discharged with many protective risk 
factors, including her help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family, life satisfaction, 
reality testing ability, good coping skills, good 
problem-solving skills, lack of suicidal ideation, and strong 
social supports. She also demonstrated preserved capacity to 
engage in a meaningful conversation about safety planning and 
what she would do if thoughts of suicide returned (e.g. would 
reach out to family, contact crisis hotline, or come to the ED). 
Thus, at time of discharge, ___ was no longer at acutely 
elevated risk of harm to self due to decompensated depressive 
disorder that would require inpatient admission.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This ___ is not taking any preadmission medications

 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___